US08207177B2
Step c: ((1S,2S,4R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-4-{4-[(cyclopropylmethyl)amino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methanol
7-[(1R,3S,4S)-3-{[tert-Butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]-oxy}methyl)cyclopentyl]-N-(cyclopropylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (100. mg, 0.188 mmol) was dissolved in THF (0.900 mL) and pyridine (0.900 mL). Pyridine hydrofluoride (7 drops) was added and the reaction was stirred for 5 h. Additional pyridine hydrofluoride (3 drops) was added and the reaction was stirred for 2 h before being quenched with saturated aqueous sodium bicarbonate solution. The aqueous layer was extracted using EtOAc (3×10 mL), and the combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with a gradient of 0 to 50% EtOAc in hexanes to afford the title compound (47.0 mg, 50%). LC/MS: Rt=1.53 min, ES+ 417 (FA standard).

reactant | 7-[(1R,3S,4S)-3-{[tert-Butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]-oxy}methyl)cyclopentyl]-N-(cyclopropylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.188 mmol | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)N1C=CC2=C1N=CN=C2NCC2CC2 | C28H50N4O2Si2
solvent | THF | 0.900 mL | C1CCOC1 | C4H8O
solvent | pyridine | 0.900 mL | N1=CC=CC=C1 | C5H5N
catalyst | Pyridine hydrofluoride | 7 drops | F.N1=CC=CC=C1
catalyst | pyridine hydrofluoride | 3 drops | F.N1=CC=CC=C1
product | ((1S,2S,4R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-4-{4-[(cyclopropylmethyl)amino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methanol | 47.0 mg, 50% | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)N1C=CC2=C1N=CN=C2NCC2CC2)CO | C22H36N4O2Si
